US05077413
6.4 g (0.05 mol) of 4-chloroaniline are dissolved in a mixture of 50 ml of glacial acetic acid and 12.5 ml of concentrated hydrochloric acid, the solution is cooled to 0° C. and a solution of 3.5 g (0.0507 mol) of sodium nitrite in 6.5 ml of water is added dropwise. The reaction mixture is then cooled to -10° C. and a solution of 11.7 g (0.0466 mol) of benzoylaminomalonic acid dimethyl ester in 120 ml of acetone is added dropwise thereto. A solution of 70.2 g (0.509 mol) of potassium carbonate in 70 ml of water is then added dropwise and stirring is then carried out for a further half an hour at from 0° to 5° C. Ethyl acetate is then added to the reaction mixture. The organic phase is separated, washed with water, dried over sodium sulfate, filtered and concentrated by evaporation to produce, in quantitative yield, an intermediate in the form of a red clear oil. 9.75 g (0.025 mol) thereof are dissolved in 50 ml of methanol, and 0.7 g (0.004 mol) of 30% sodium methoxide in methanol is added. The reaction solution is left to stand overnight at room temperature during which the product crystallises out. After filtering off and washing with a small amount of methanol, 3.4 g (43.6% of the theoretical yield) of 1-(4-chlorophenyl)-5-phenyl-1,2,4-triazole-3-carboxylic acid methyl ester having a melting point of 136°-137° C. are obtained.

reactant | 4-chloroaniline | 0.05 mol, 6.4 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | sodium nitrite | 0.0507 mol, 3.5 g | N(=O)[O-].[Na+]
reactant | benzoylaminomalonic acid dimethyl ester | 0.0466 mol, 11.7 g | COC(C(C(=O)OC)NC(C1=CC=CC=C1)=O)=O | C12H13NO5
reactant | potassium carbonate | 0.509 mol, 70.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium methoxide | 0.004 mol, 0.7 g | C[O-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 12.5 ml | Cl | ClH
solvent | water | 6.5 ml | O | H2O
solvent | acetone | 120 ml | CC(=O)C | C3H6O
solvent | water | 70 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-chlorophenyl)-5-phenyl-1,2,4-triazole-3-carboxylic acid methyl ester | quantitative yield | COC(=O)C1=NN(C(=N1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C16H12ClN3O2
